US05977178
N-Methyl-N-((1R)-1-(N-methyl-N-((1R)-2-phenyl-1-((2,2,2-trifluoroethyl) carbamoyl)ethyl)carbamoyl)-2-(2-naphthyl)ethyl)carbamic acid tert-butyl ester (1.12 g, 1.97 mmol) was dissolved in dichloromethane (6 ml). The solution was cooled to 0° C. Trifluoroacetic acid (6 ml) was added. The reaction mixture was stirred for 45 min at 0° C. A saturated solution of aqueous sodium hydrogen carbonate (30 ml) was added. Solid sodium hydrogen carbonate was added until pH 7. Water (100 ml) was added until a clear solution was obtained. The phases were separated. The aqueous solution was extracted with dichloromethane (2×50 ml). The combined organic layers were dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (90 g), using dichloromethanelmethanol/25% aqueous ammonia 100:10:1 as eluent, to give 946 mg of (2R)-2-methylamino-N-methyl-3-(2-naphthyl)-N-((1R)-2-phenyl-1-((2,2,2-trifluoroethyl) carbamoyl)ethyl)propionamide.

reactant | N-Methyl-N-((1R)-1-(N-methyl-N-((1R)-2-phenyl-1-((2,2,2-trifluoroethyl) carbamoyl)ethyl)carbamoyl)-2-(2-naphthyl)ethyl)carbamic acid tert-butyl ester | 1.97 mmol, 1.12 g | C(C)(C)(C)OC(N([C@H](CC1=CC2=CC=CC=C2C=C1)C(N([C@H](CC1=CC=CC=C1)C(NCC(F)(F)F)=O)C)=O)C)=O | C31H36F3N3O4
reactant | Trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | 30 ml | C(O)([O-])=O.[Na+]
reactant | Water | 100 ml | O | H2O
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | (2R)-2-methylamino-N-methyl-3-(2-naphthyl)-N-((1R)-2-phenyl-1-((2,2,2-trifluoroethyl) carbamoyl)ethyl)propionamide | 946 mg | CN[C@@H](C(=O)N([C@H](CC1=CC=CC=C1)C(NCC(F)(F)F)=O)C)CC1=CC2=CC=CC=C2C=C1 | C26H28F3N3O2
